### PR TITLE
[Merged by Bors] - feat(Analysis): the generalized hypergeometric function

### PR DESCRIPTION
**Pull request by mcdoll**
We define the (regularized) generalized hypergeometric function and prove convergence in the cases `p < q + 1` and `p = q + 1`. This includes the Gaussian hypergeometric function (`p = 2` and `q = 1`) and the Bessel functions (`p = 0` and `q = 1`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 1]
```diff
@@ -0,0 +1,284 @@
...
+  unfold regularizedHGFunCoeff
+  simp [Finset.prod_eq_zero_iff, Gamma_eq_zero_iff, n.factorial_ne_zero]
+
+variable (a b n) in
+theorem regularizedHGFunCoeff_eq_zero_right
+    (hb : ∃ (j : Fin q) (m : ℕ), b j = -n - m) : regularizedHGFunCoeff a b n = 0 := by grind
+
+variable (a b n) in
+theorem regularizedHGFunCoeff_eq_zero_left
+    (ha : ∃ (j : Fin p), ∃ k < n, k = -a j) : regularizedHGFunCoeff a b n = 0 := by grind
```
Comment (wwylele) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: When an `Exists` appears in the hypothesis, I think we usually expand it into multiple parameters
```suggestion
variable (a b n) in
theorem regularizedHGFunCoeff_eq_zero_right {j : Fin q} {m : ℕ} (h : b j = -n - m) :
    regularizedHGFunCoeff a b n = 0 := by grind

variable (a b n) in
theorem regularizedHGFunCoeff_eq_zero_left {j : Fin p} {k : ℕ} (hk : k < n) (h : k = -a j) :
    regularizedHGFunCoeff a b n = 0 := by grind
```

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 2]
```diff
@@ -0,0 +1,284 @@
...
+      (𝓝 1) := by
+  have h : Tendsto (fun n : ℕ ↦ (n : ℂ)⁻¹) atTop (𝓝 0) := tendsto_inv_atTop_nhds_zero_nat
+  have := (tendsto_finsetProd_div_add_one a).div
+    ((tendsto_finsetProd_div_add_one b).mul <| h.const_add 1) (by simp)
+  simp only [add_zero, mul_one, ne_eq, one_ne_zero, not_false_eq_true, div_self] at this
+  apply this.congr
+  simp
+
+/-- If `p < q + 1`, then the hypergeometric series has infinite convergence radius. -/
+theorem radius_regularizedHGFunSeries_eq_top (a : Fin p → ℂ) (b : Fin q → ℂ) (h : p < q + 1) :
```
Comment (wwylele) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]:
```suggestion
theorem radius_regularizedHGFunSeries_eq_top (a : Fin p → ℂ) (b : Fin q → ℂ) (h : p ≤ q) :
```

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 3]
```diff
@@ -0,0 +1,284 @@
...
+      _ = Gamma ((z + n) + 1) := by group
+      _ =  (z + n) * Gamma (z + n) := by grind
+      _ = _ := by group
+
+variable {p q : ℕ}
+
+variable {a : Fin p → ℂ} {b : Fin q → ℂ} {n : ℕ}
+
+/-- The coefficients of the regularized hypergeometric series. -/
+def regularizedHGFunCoeff (a : Fin p → ℂ) (b : Fin q → ℂ) (n : ℕ) : ℂ :=
```
Comment (wwylele) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: Should `a` and `b` be `Multiset ℂ` instead? Advantages are
 - Reflects the fact that order doesn't matter
 - If one wants to introduce a cancelling lemma when there is a common factor among `a` and `b`, `Multiset` allows writing it naturally in insert/erase, while `Fin` needs reindexing.

Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: I am a bit skeptical, because I assume maps from `Fin p` to `α` to have more API. The lemma that the order does not matter can be equally well be expressed as a lemma with a permutation. The cancellation lemma does only hold for the true hypergeometric function, in this case you have a product of gamma factors appearing.

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 4]
```diff
@@ -0,0 +1,333 @@
...
+@[expose] public noncomputable section
+
+namespace Complex
+
+open scoped Nat Real
+open Topology Filter
+
+/-- The ascending Pochhammer symbol is given by the ratio of `Γ` functions. -/
+theorem Gamma_nat_add_div_Gamma_eq {n : ℕ} (z : ℂ) (hz : ∀ k : ℕ, -z ≠ k) :
+    Gamma (n + z) / Gamma z = (ascPochhammer ℂ n).eval z := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: Feels like this belongs in an earlier file. Also, I suspect it makes slightly more sense to write this as `Gamm (z + n) / ...` so that it matches `Gamma_add_one`, and I think it will simplify the proof a bit.

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 5]
```diff
@@ -0,0 +1,333 @@
...
+  induction n generalizing z with
+  | zero =>
+    simp
+    grind
+  | succ n ih =>
+    suffices h : Gamma (n + 1 + z) = Gamma (n + z) * (z + n) by
+      simp [ascPochhammer_succ_right, ← ih z hz, div_mul_eq_mul_div, h]
+    calc
+      _ = Gamma ((z + n) + 1) := by group
+      _ =  (z + n) * Gamma (z + n) := by grind
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]:
```suggestion
      _ = (z + n) * Gamma (z + n) := by grind
```

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: @mcdoll I realize that the presentation as `Fin p → α` is standard in the literature, but I think that in fact `Multiset` makes more sense here. Not only does it bake in the permutation invariance, it also avoids the cardinalities `p` and `q` being baked into the type of the hypergeometric function. The former is certainly better since you don't need an `≃`, and the latter is better in case you have `p p' : ℕ` with `p = p'` propositionally but not definitionally.

If you have `a : Fin p → ℂ`, you can always get the associated range as a multiset via `Finset.univ.val.map a`. As for API, I think that shouldn't be an issue because there should be sufficient API for `Multiset.cons` and `Multiset.map`.

File: Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean [hunk 6]
```diff
@@ -0,0 +1,333 @@
...
+In this file we define the generalized hypergeometric function as well as the Gaussian
+hypergeometric function.
+
+The hypergeometric function is a function with parameters `a : Fin p → ℂ` and `b : Fin q → ℂ`.
+
+Note that in this file, we use the *regularized* version of the hypergeometric function, that is
+the coefficients are divides by `∏ i, Gamma (b i)`, giving in the case of the Gaussian
+hypergeometric function the series representation
+$$\sum_j \frac{(a)^n (b)^n}{\Gamma(c + n) n!} z^ n,$$
+where `(a)^n` denotes the rising Pochhammer symbol.
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:22]: I'm skeptical of this decision as it means we can't consider the generalized hypergeometric function over `ℝ` (just as an example) and instead we must always work over `ℂ`. That seems a significant downside.

**Review by j-loreaux — COMMENTED** [review]
One additional thing I'm unsure about: over fields other than `ℂ` (e.g., not algebraically closed) do we need a theory where we allow the coefficients to be given by rational functions? That would be even more general than the `Multiset` discussion, but it would mean a complete rewrite.

File: Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean (hunk 6 above)
Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:22]: I would not be opposed to define the (non-regularized) hypergeometric function as a ratio of Pochhammer symbols as well. But that is not useful when defining the Bessel function (or the resolvent of the hyperbolic plane), because then you have jump through `MeromorphicNF` hoops to get rid of the removable singularities.
As for the case of the reals: we define `Real.exp` as the real part of the complex exponential as well (in addition to having `NormedSpace.exp`) - so I don't quite understand why it would be terrible doing the same thing for the Bessel functions.

File: Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean [hunk 7]
```diff
@@ -0,0 +1,333 @@
...
+end ZeroZero
+
+section Gaussian
+
+/-- The regularized Gaussian hypergeometric function. -/
+def regularizedGaussHGFunSeries (a b c : ℂ) : FormalMultilinearSeries ℂ ℂ ℂ :=
+  regularizedHGFunSeries ![a, b] ![c]
+
+/-- The regularized Gaussian hypergeometric function. -/
+def regularizedGaussHGFun (a b c z : ℂ) : ℂ :=
```
Comment (ocfnash) [inline Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:294]: It would be nice to connect this with [ordinaryHypergeometric](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.html#ordinaryHypergeometric).

Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:294]: That is (modulo the fact that it should be the generalised version) what I think Jireh has in mind. I am really not sure how hard it is to prove from this all of the properties of the regularised version.

Comment (ocfnash) [reply Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:294]: I was just thinking of adding a lemma expressing:
image
rather than generalizing the coefficients here (which might or might not be worth doing, I haven't time to think carefully about it).

Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:294]: Yes, but then the question is do we duplicate all of the proofs?

Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/RegularizedHypergeometric.lean:294]: The convergence theorem will not even translate exactly: [ordinaryHypergeometric_radius_top_of_neg_nat₃](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/OrdinaryHypergeometric.html#ordinaryHypergeometric_radius_top_of_neg_nat%E2%82%83) is only true because the junk value is 0 for the poles. for the regularized hypergeometric function, this is not a pole and therefore it has the same convergence as at any other value of `c`.

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: I am half-way through switching and I can't find a way to replace `iSup (re \circ a)`. `Multiset.sup` only works for `OrderBot`, which the reals are not. Is another way of defining a supremum? I couldn't find anything and it would be very ugly to go through `Real.toNNReal` just to get a bottom element.

Comment (wwylele) [reply Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: One way to do this is `(Multiset.toFinset _).sup' ...`. Maybe we should create `Multiset.sup'`...

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 8]
```diff
@@ -0,0 +1,360 @@
...
+  grind
+
+variable (b) in
+/-- If for all `j` and `k : ℕ`, `a j ≠ -k`, then the coefficients of the hypergeometric series
+are eventually non-vanishing. -/
+theorem eventually_atTop_regularizedHGFunCoeff_ne_zero (h : ∀ j ∈ a, ∀ (k : ℕ), j ≠ -↑k) :
+    ∀ᶠ (n : ℕ) in atTop, regularizedHGFunCoeff a b n ≠ 0 := by
+  rw [Filter.eventually_atTop]
+  use b.toFinset.sup (⌈-re ·⌉₊) + 1
+  --use ⌈sSup (b.map (-re)).toFi nset⌉₊ + 1
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]:
```suggestion
```

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 9]
```diff
@@ -0,0 +1,360 @@
...
+  · grind
+  · suffices (m : ℝ) < 0 by grind
+    suffices -j.re < n by
+      have h : j = -m - n := by grind
+      simpa [h] using this
+    calc
+      -j.re ≤ ⌈-j.re⌉₊ := Nat.le_ceil (-j.re)
+      _ ≤ b.toFinset.sup (⌈-re ·⌉₊) := by
+        norm_cast
+        exact Finset.le_sup (by grind) (f := (⌈-re ·⌉₊))
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: Does this work?
```suggestion
      _ ≤ b.toFinset.sup (⌈-re ·⌉₊) := mod_cast Finset.le_sup (by grind) (f := (⌈-re ·⌉₊))
```

File: Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean [hunk 10]
```diff
@@ -0,0 +1,360 @@
...
+      (a.regularizedGaussHGFunSeries b c).coeff n := by
+  rw [coeff_regularizedGaussHGFunSeries, ordinaryHypergeometricSeries,
+    FormalMultilinearSeries.coeff_ofScalars, ordinaryHypergeometricCoefficient,
+    ← Gamma_add_nat_div_Gamma_eq c hc]
+  grind
+
+theorem ordinaryHypergeometric_div_Gamma_eq (hc : ∀ k : ℕ, c ≠ -k) :
+    ordinaryHypergeometric a b c z / Gamma c = regularizedGaussHGFun a b c z := by
+  rw [regularizedGaussHGFun, ordinaryHypergeometric]
+  rw [div_eq_inv_mul, ← smul_eq_mul, FormalMultilinearSeries.const_smul_sum_apply]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Hypergeometric.lean]: style nit.
```suggestion
  rw [regularizedGaussHGFun, ordinaryHypergeometric, div_eq_inv_mul, ← smul_eq_mul,
    FormalMultilinearSeries.const_smul_sum_apply]
```

**Review by j-loreaux — COMMENTED** [review]
bors d+

**Comment by mcdoll** [comment]
@j-loreaux I am a bit unsure still about the file structure: in the end we want both the regularized generalized hypergeometric function and the "normal" generalized hypergeometric function. Should this file become `RegularizedHypergeometric.lean` and then when generalizing `ordinaryHypergeometric` to the generalized variant we rename that file to `Hypergeometric.lean`?

**Comment by j-loreaux** [comment]
That sounds reasonable. In any case, I didn't think we need to worry about it much now. `RegularizedHypergeometric` seems good.

**Comment by mcdoll** [comment]
Thanks for the quick reply and the review!
bors merge
